US04409214
Formic acid (8.4 g) was added to acetic anhydride (18.7 g) under ice-cooling with stirring, and the stirring was continued at 45° to 50° C. for an hour. To the resultant solution was added 2-(2-aminothiazol-5-yl)acetic acid (5.8 g) at ambient temperature, and the mixture was stirred for 35 minutes. After the reaction mixture was evaporated to dryness, the residual product was treated with diisopropyl ether and then collected by filtration to give 2-(2-formamidothiazol-5-yl)acetic acid (5.87 g), mp 229° C. (dec.).

reactant | acetic anhydride | 18.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-aminothiazol-5-yl)acetic acid | 5.8 g | NC=1SC(=CN1)CC(=O)O | C5H6N2O2S
solvent | Formic acid | 8.4 g | C(=O)O | CH2O2
product | 2-(2-formamidothiazol-5-yl)acetic acid | 5.87 g | C(=O)NC=1SC(=CN1)CC(=O)O | C6H6N2O3S
